US05068238
A mixture of 2-ethylamino-6-trifluoromethoxybenzothiazole (7.45 g) and 1-chloro-2-methylthioethane (3.76 g) in methyl ethyl ketone (20 cc) is heated to boiling for 94 hours. After cooling to a temperature in the region of 20° C., the precipitate formed is filtered off and washed with methyl ethyl ketone (2×20 cc). After recrystallization in 2-propanol, 2-ethylimino-3-(2-methylthioethyl)-6-trifluoromethoxybenzothiazoline hydrochloride (0.75 g), m.p. 208° C., is obtained.

reactant | 2-ethylamino-6-trifluoromethoxybenzothiazole | 7.45 g | C(C)NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C10H9F3N2OS
reactant | 1-chloro-2-methylthioethane | 3.76 g | ClCCSC | C3H7ClS
solvent | methyl ethyl ketone | 20 cc | C(C)C(=O)C | C4H8O
product | 2-ethylimino-3-(2-methylthioethyl)-6-trifluoromethoxybenzothiazoline hydrochloride | 0.75 g | Cl.C(C)N=C1SC2=C(N1CCSC)C=CC(=C2)OC(F)(F)F | InChI=1S/C13H15F3N2OS2.ClH/c1-3-17-12-18(6-7-20-2)10-5-4-9(8-11(10)21-12)19-13(14,15)16;/h4-5,8H,3,6-7H2,1-2H3;1H
